US07754737B2
A sealed tube designed for a microwave reactor was filled with nitrogen and charged with vinylcyclohexane (66 mg, 0.595 mmol, 5.0 equiv) 9-BBN (0.5 M solution in THF, 1.07 mL, 4.5 equiv) and the clear solution was stirred overnight at rt. The flask was briefly opened and Cs2CO3 (213 mg, 0.119 mmol, 3.3 equiv), PdCl2(dppf) (11 mg, 0.119 mmol, 0.05 equiv), 1-(2-(trimethylsilyl)ethanesulfonyl)-3-((3-methoxypropoxy)(2-bromophenyl)methyl)-piperidine (100 mg, 0.197 mmol, 1.0 equiv), and dioxane (4 mL) added. The tube was degassed by three evacuate/N2 backfill cycles, then placed in a CEM microwave reactor and heated to 120° C. for 10 min. The solvent was removed and the product was extracted with EtOAc and filtered through a pad of Celite. The product was purified by flash chromatography on 12 g of silica, eluting with 0 to 27% EtOAc in hexanes, to afford 1-(2-(trimethylsilyl)ethanesulfonyl)-3-((3-methoxypropoxy)(2-(2-cyclohexylethyl)phenyl)methyl)piperidine (82%) as a mixture of diastereomers. 1H NMR (CDCl3) δ 0.02 (s, 9H), 0.8-1.9 (m, 24H), 2.5-2.8 (m, 4H), 3.3-4.4 (m, 11H), 7.1-7.3 (m, 4H). MS ESI+ve m/z 561 (M+Na+).

reactant | vinylcyclohexane | 0.595 mmol, 0.5 M, 1.07 mL, 66 mg, 5.0 equiv | C(=C)C1CCCCC1 | C8H14
reactant | Cs2CO3 | 0.119 mmol, 213 mg, 3.3 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-(2-(trimethylsilyl)ethanesulfonyl)-3-((3-methoxypropoxy)(2-bromophenyl)methyl)-piperidine | 0.197 mmol, 100 mg, 1.0 equiv | C[Si](CCS(=O)(=O)N1CC(CCC1)C(C1=C(C=CC=C1)Br)OCCCOC)(C)C | C21H36BrNO4SSi
catalyst | PdCl2(dppf) | 0.119 mmol, 11 mg, 0.05 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 1-(2-(trimethylsilyl)ethanesulfonyl)-3-((3-methoxypropoxy)(2-(2-cyclohexylethyl)phenyl)methyl)piperidine | 82% | C[Si](CCS(=O)(=O)N1CC(CCC1)C(C1=C(C=CC=C1)CCC1CCCCC1)OCCCOC)(C)C | C29H51NO4SSi
